US06548514B1
A mixture of 3-nitrobenzyl chloride (1 g) and N-methylpiperazine (3 ml) was stirred and heated to 100° C. for 4 hours. The mixture was cooled to ambient temperature and partitioned between methylene chloride and water. The organic phase was evaporated to give 3-(4-methylpiperazin-1-ylmethyl)nitrobenzene (1.05 g); NMR Spectrum: (DMSOd6) 2.14 (s, 3H), 2.31-2.38 (m, 8H), 3.57 (s, 2H), 7.6 (t, 1H), 7.54 (d, 1H), 8.07-8.13 (m, 2H).

reactant | 3-nitrobenzyl chloride | 1 g | [N+](=O)([O-])C=1C=C(CCl)C=CC1 | C7H6ClNO2
reactant | N-methylpiperazine | 3 ml | CN1CCNCC1 | C5H12N2
product | 3-(4-methylpiperazin-1-ylmethyl)nitrobenzene | 1.05 g | CN1CCN(CC1)CC=1C=C(C=CC1)[N+](=O)[O-] | C12H17N3O2
